US06518423B1
8-[(2(tert-Butyldimethylsiloxy)ethyl]-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine
603 mg of 8-[(2-(tert-butyldimethylsilyloxy)ethyl]-10H-pyrazino[2,3-b][1,4]benzothiazine was dissolved in 6 ml of tetrahydrofuran. After adding 63 mg of 70% sodium hydride, the resulting mixture was stirred under ice-cooling for 15 minutes. Then 0.14 ml of chloromethyl methyl ether was added thereto and the resulting mixture was stirred for 1 hour and for additional 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 463 mg of the title compound as a brown oily substance.

reactant | (2-(tert-butyldimethylsilyloxy)ethyl]-10H-pyrazino[2,3-b][1,4]benzothiazine | [Si](C)(C)(C(C)(C)C)OCCC1=NC2=C(SC3=C(N2)C=CC=C3)N=C1 | C18H25N3OSSi
reactant | sodium hydride | 63 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.14 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (2(tert-Butyldimethylsiloxy)ethyl]-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 463 mg | O([Si](C)(C)C(C)(C)C)CCC1=NC2=C(SC3=C(N2COC)C=CC=C3)N=C1 | C20H29N3O2SSi
